US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (500 mg, 1.69 mmol, from preparation B) and 6-chloro-2-(4-chlorophenyl)hexanoic acid (440 mg, 1.685 mmol, from preparation AH) were coupled and then reacted with hydrazine (0.212 mL, 6.74 mmol) using a procedure analogous to Step A of Example 13. The crude products were purified using silica gel chromatography (40-100% ethyl acetate/chloroform) to afford 5-(5-chloro-1-(4-chlorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (180 mg, 0.356 mmol, 21% yield) as a colorless residue. LC-MS (M+H)+ 505.1.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | 1.69 mmol, 500 mg | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-chlorophenyl)hexanoic acid | 1.685 mmol, 440 mg | ClCCCCC(C(=O)O)C1=CC=C(C=C1)Cl | C12H14Cl2O2
reactant | hydrazine | 6.74 mmol, 0.212 mL | NN | H4N2
product | 5-(5-chloro-1-(4-chlorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 0.356 mmol, 180 mg, 21% yield | ClCCCCC(C1=CC=C(C=C1)Cl)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C23H23Cl3N6O
